US05489614
4-(3,4-Dihydroxy-5-nitrobenzyl)-3,5-heptanedione.
A mixture containing 0.2 g of 3,4-dihydroxy-5-nitrobenzyl alcohol and 0.03 ml of trifluoroacetic acid in 2.5 ml of 3,4-heptanedione was heated for 20 h at 100° C. The solvent was evaporated in vacuo and the residue was recrystallized from 2-propanol. Yield 0.3 g, mp 126°-131° C.

reactant | 3,4-dihydroxy-5-nitrobenzyl alcohol | 0.2 g | OC=1C=C(CO)C=C(C1O)[N+](=O)[O-] | C7H7NO5
reactant | trifluoroacetic acid | 0.03 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | 3,4-heptanedione | 2.5 ml | CCC(C(CCC)=O)=O | C7H12O2
product | 4-(3,4-Dihydroxy-5-nitrobenzyl)-3,5-heptanedione | OC=1C=C(CC(C(CC)=O)C(CC)=O)C=C(C1O)[N+](=O)[O-] | C14H17NO6
